Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
aspirin / Naprosyn / amoxicillin / Penicillins / procaine
 
Attending: ___.
 
Chief Complaint:
___ year old woman with no prior cardiac history who presents 
with incidentally discovered, asymptomatic, bradycardia at her 
rehab facility. 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old woman with no prior cardiac history who presented 
with incidentally discovered bradycardia at her rehab facility. 
She has been living at ___ at ___ due to a left 
leg deformity and she has been working on improving her gait. 
She monitored serially there and on ___ her HR was 
discovered to be in the ___ so she was sent to ___, 
then here to be evaluated. Of note, she has been totally 
asymptomatic, specifically she has not had chest pain, dyspnea, 
lightheadedness, near-syncope, syncope, or palpitations.  
 In the ED, initial vitals were: 98.8 67 124/79 16 95% RA  
 - ECG showed sinus bradycardia and sinus node dysfunction with 
likely SA node Wenchebach at ventricular rate of 56.  
 - Chemistry, hemogram, and troponin were entirely within normal 
limits.  

 
Past Medical History:
1. Microscopic colitis  
2. Osteoporosis  
3. Neuropathy  
4. Depression  
5. Hypothyroidism  
6. Left foot deformity  
7. Chronic venous stasis  
8. Bradycardia  

 
Social History:
___
Family History:
- No history of premature cardiac disease  
- No history of sudden death  
- None of her relatives has required a pacemaker or ICD  
 

 
Physical Exam:
On Admission:
Vital Signs: T 98.2 BP 139/85 HR 74 RR 20 SpO2 92% on RA  
 The patient exercised in bed using the bleach wipes container 
and HR increased from 72 -> 88. She could have done more but 
wanted to go to sleep.  
 General: Appears stated age. Mentally sharp.  
 HEENT: Sclerae anicteric, MMM, neck supple, JVP not elevated, 
no LAD  
 CV: RRR, no significant murmurs  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Bilateral non pitting edema. Patient states this is 
consistent with her prior diagnosis of venous insufficiency.  

Discharge:
Well appearing ___ year old female in NAD
VS: 98.1 67 20 148/63 Pulse ox 97%RA
Weight: 53.8 kg
Neck: no JVD; supple
Lungs: crackles at bases
Heart: RRR; no murmurs/gallops
Abd: + BS; soft; non-tender; no masses
Extrem: bilateral non-pitting edema L>R
 
Pertinent Results:
___ 07:51AM BLOOD WBC-6.2 RBC-3.83* Hgb-11.8 Hct-36.4 
MCV-95 MCH-30.8 MCHC-32.4 RDW-15.0 RDWSD-51.8* Plt ___
___ 07:51AM BLOOD Glucose-92 UreaN-15 Creat-0.6 Na-135 
K-3.7 Cl-97 HCO3-29 AnGap-13
___ 07:51AM BLOOD Calcium-8.7 Phos-3.1 Mg-1.9
___ 03:44AM BLOOD TSH-4.8*
___ 03:44AM BLOOD T4-7.1
 
Brief Hospital Course:
Mrs. ___ is a pleasant ___ year old woman with no prior 
cardiac history who was transferred from ___ with 
incidentally discovered bradycardia at her rehab facility.  
 #) BRADYCARDIA: Asymptomatic. Due to sinus node dysfunction/SA 
exit block. Leading differential would be senescence of 
conduction tissue. She is on no nodal agents.  patient walked 
and displayed appropriate HR increase. TSH slightly high at 4.8. 
She had no further episodes of significant bradycardia while 
monitored here. 
  -Follow up TSH and Synthroid dosing out patient  
 #)Left Knee Pain:  
 Patient has been at rehab due to left knee pain which she 
presented to ___ on ___ with pain and received a 
steroid injection. Xray showing Chondrocalcinosis present. 
Patellofemoral narrowing. No obvious effusion. 
- L knee CT as per outpatient orthopedist 
 #) MICROSCOPIC COLITIS: Continue budesonide  
 #) HYPOTHYROIDISM: Continue levothyroxine 
- consider increasing levothyroxine given TSH 4.8 
 #) NEUROPATHY: Continue gabapentin  
 #) OSTEOPOROSIS: Continue vitamin D and calcium  

Her labs were stable; she experienced some minor diarrhea which 
she attributed to her colitis and change of diet; She was 
discharged back to Rehab facility for ongoing rehab of L knee.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin B Complex 1 CAP PO DAILY 
2. Multivitamins W/minerals 1 TAB PO DAILY 
3. Mirtazapine 15 mg PO QHS 
4. Budesonide 3 mg PO DAILY 
5. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral DAILY 
6. Escitalopram Oxalate 10 mg PO DAILY 
7. Gabapentin 100 mg PO BID 
8. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
9. Vitamin E 100 UNIT PO QD 
10. Levothyroxine Sodium 75 mcg PO DAILY 
11. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Budesonide 3 mg PO DAILY  
3.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral DAILY  
4.  Escitalopram Oxalate 10 mg PO DAILY  
5.  Gabapentin 100 mg PO BID  
6.  Levothyroxine Sodium 75 mcg PO DAILY  
7.  Mirtazapine 15 mg PO QHS  
8.  Multivitamins W/minerals 1 TAB PO DAILY  
9.  Vitamin B Complex 1 CAP PO DAILY  
10.  Vitamin D 1000 UNIT PO DAILY  
11.  Vitamin E 100 UNIT PO QD  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Asymptomatic bradycardia

 
Discharge Condition:
___ year old female with no prior cardiac history transferred 
from rehab facility via ___ asymptomatic episodes 
of bradycardia; No ongoing bradycardia here to necessitate 
consideration of pacemaker at this time.
PE:
Well appearing ___ year old female in NAD
VS: 98.1  67  20  148/63 Pulse ox 97%RA
Weight: 53.8 kg
Lungs: crackles at bases
Heart: RRR; no murmurs/gallops
Abd: + BS; soft; non-tender; no masses
Extrem: bilateral non-pitting edema L>R
Labs: Na 135  K 3.7  BUN 15  Cr 0.6  Mg 1.9  WBC 6.2  Plt 192  
Hgb 11.8  Hct 36.4  trop (-)x2

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
Plan:
#) BRADYCARDIA: Asymptomatic. Due to sinus node dysfunction/SA 
exit block. Leading differential would be senescence of 
conduction tissue. She is on no nodal agents. Walked with 
patient who displayed appropriate HR increase. TSH slightly high 
at 4.8.    
 -Follow up TSH and Synthroid dosing out patient
 -Re-evaluation of symptomatic bradycardia if it occurs  
#)Left Knee Pain:  
 Patient has been at rehab due to left knee pain which she 
presented to ___ on ___ with pain and received a 
steroid injection. Xray showing Chondrocalcinosis present. 
Patellofemoral narrowing. No obvious effusion.  
 - f/u as outpatient  
#) MICROSCOPIC COLITIS: Continue budesonide
 - some diarrhea, patient attributes to change in diet
#) HYPOTHYROIDISM: Continue levothyroxine 
 - TSH 4.8 -- consider dose increase per outpatient provider  
#) NEUROPATHY: Continue gabapentin  
#) OSTEOPOROSIS: Continue vitamin D and calcium  

Dispo:
- Return to ___

 
Discharge Instructions:
You were transferred from ___, having been found 
incidentally to have episodes of slow heart rates while at 
___; Your heart rate was monitored here and no 
episodes of worrisome slow heart rates were detected.  With 
activity your heart rate increased appropriately.

No medications were changed while here.
Your TSH (thyroid) level was slightly elevated -- your primary 
MD may need to increase your levothyroxine.

 
Followup Instructions:
___